US03997535
a. 3,6,7-Trimethoxy-2-quinoxalinecarboxylic acid
3-Chloro-6,7-dimethoxy-2-quinoxalinecarboxylic acid, ethyl ester (3.5 g) was added to sodium methoxide (prepared from sodium (0.7 g) in methanol (250 ml)). The solution was heated under reflux for 2 hours. Water (50 ml) was added and the solution was heated under reflux for 45 minutes and cooled. 2N Hydrochloric acid was added to give a mixture of pH1 and the methanol was distilled off. Water (500 ml) was added and the solution was extracted with ethyl acetate. The extract was dried over magnesium sulphate, filtered and evaporated and the residue was crystallised from a mixture of ethyl acetate and light petroleum (b.p. 60°-80°). The product had m.p. 163°-164° (d) (54%).

reactant | 3-Chloro-6,7-dimethoxy-2-quinoxalinecarboxylic acid, ethyl ester | 3.5 g | ClC=1C(=NC2=CC(=C(C=C2N1)OC)OC)C(=O)OCC | C13H13ClN2O4
reactant | sodium methoxide | 250 ml, 0.7 g | C[O-].[Na+]
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | Water | 50 ml | O | H2O
product | 3,6,7-Trimethoxy-2-quinoxalinecarboxylic acid | COC=1C(=NC2=CC(=C(C=C2N1)OC)OC)C(=O)O | C12H12N2O5
